* NGSPICE file created from bmr_10n.ext - technology: sky130A

.subckt sky130_fd_pr__res_xhigh_po_0p35_872VHY B R1 R2
X0 R1 R2 B sky130_fd_pr__res_xhigh_po_0p35 l=135.5
.ends

.subckt sky130_fd_pr__pfet_01v8_8SGQ8J B D S G
X0 S G D B sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=4
.ends

.subckt sky130_fd_pr__nfet_01v8_XV5MNW B D S G
X0 S G D B sky130_fd_pr__nfet_01v8 ad=2.32 pd=16.58 as=2.32 ps=16.58 w=8 l=4
.ends

.subckt sky130_fd_pr__nfet_01v8_PCYQPL B D S G
X0 S G D B sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=4
.ends

.subckt bmr_10n VCC VBP VSS VBN rst_n
XXR1 VSS XR2/R1 XM3/S sky130_fd_pr__res_xhigh_po_0p35_872VHY
XXR2 VSS XR2/R1 XR3/R2 sky130_fd_pr__res_xhigh_po_0p35_872VHY
XXR3 VSS XR4/R1 XR3/R2 sky130_fd_pr__res_xhigh_po_0p35_872VHY
XXR5 VSS XR6/R1 XR5/R2 sky130_fd_pr__res_xhigh_po_0p35_872VHY
XXR4 VSS XR4/R1 XR5/R2 sky130_fd_pr__res_xhigh_po_0p35_872VHY
XXR6 VSS XR6/R1 XR7/R2 sky130_fd_pr__res_xhigh_po_0p35_872VHY
XXM1 VCC VCC VBP VBP sky130_fd_pr__pfet_01v8_8SGQ8J
XXR7 VSS XR8/R1 XR7/R2 sky130_fd_pr__res_xhigh_po_0p35_872VHY
XXM2 VCC VCC VBN VBP sky130_fd_pr__pfet_01v8_8SGQ8J
XXR8 VSS XR8/R1 VSS sky130_fd_pr__res_xhigh_po_0p35_872VHY
XXM3 VSS VBP XM3/S VBN sky130_fd_pr__nfet_01v8_XV5MNW
XXM4 VSS VBN VSS VBN sky130_fd_pr__nfet_01v8_PCYQPL
XXM5 VCC VCC VBN rst_n sky130_fd_pr__pfet_01v8_8SGQ8J
.ends

