** sch_path: /foss/designs/ttsky-26c-voltage-amplifier-neuron/schem/vamp_if_neuron.sch
.subckt vamp_if_neuron VCC V_MEM_BUF VSS rst_n IN1 IN2 IN3 IN4 IN5
*.PININFO VCC:B VSS:B rst_n:I V_MEM_BUF:O IN1:I IN2:I IN3:I IN4:I IN5:I
x1 VCC net1 VSS VBN_REF10N V_MEM V_THRES ota
x2 VCC net1 V_inv1 VSS inv
XC1 V_MEM VSS sky130_fd_pr__cap_mim_m3_1 W=22.63 L=22.63
XM1 net5 V_inv2 VK_SRC VSS sky130_fd_pr__nfet_01v8 L=4 W=1 nf=1
XM5 V_inv2 V_inv1 VNET_KDOWN_SRC VSS sky130_fd_pr__nfet_01v8 L=0.5 W=1 nf=1
XM6 V_inv2 V_inv1 net3 VCC sky130_fd_pr__pfet_01v8_lvt L=0.5 W=2 nf=1
XC2 V_inv2 VSS sky130_fd_pr__cap_mim_m3_1 W=24.75 L=24.75
VSNA net6 V_MEM 0
.save i(vsna)
VSKUP net4 net3 0
.save i(vskup)
VSK net5 V_MEM 0
.save i(vsk)
VSKDOWN net2 VNET_KDOWN_SRC 0
.save i(vskdown)
XM2 VK_SRC VBN_REF10N VSS VSS sky130_fd_pr__nfet_01v8 L=4 W=1 nf=1 m=4
XM3 net2 VBN_REF1N VSS VSS sky130_fd_pr__nfet_01v8 L=4 W=2 nf=1
XM7 VNA_SRC VBP_REF10N VCC VCC sky130_fd_pr__pfet_01v8 L=4 W=1 nf=1
XM8 net4 VBP_REF1N VCC VCC sky130_fd_pr__pfet_01v8 L=4 W=2.5 nf=1 m=2
XM4 net6 V_inv1 VNA_SRC VCC sky130_fd_pr__pfet_01v8_lvt L=4 W=2 nf=1
VSIN V_STIM V_MEM 0
.save i(vsin)
x3 VCC VBP_REF10N VSS VBP_REF1N VBN_REF10N VBN_REF1N rst_n bmr
VSBUF net7 V_MEM_BUF 0
.save i(vsbuf)
XM9 VSS V_MEM V_MEM_BUF VCC sky130_fd_pr__pfet_01v8_lvt L=0.5 W=40 nf=1
XM10 net7 VBP_REF10N VCC VCC sky130_fd_pr__pfet_01v8 L=0.75 W=10 nf=1 m=2
XM11 net8 VBN_REF1N VSS VSS sky130_fd_pr__nfet_01v8 L=4 W=1 nf=1
VSLK net8 V_MEM 0
.save i(vslk)
XR3 V_THRES VCC VSS sky130_fd_pr__res_xhigh_po_0p35 L=10 mult=1
XR4 VSS V_THRES VSS sky130_fd_pr__res_xhigh_po_0p35 L=6.36 mult=1
x4 VCC V_STIM VBP_REF1N IN1 IN2 IN3 IN4 IN5 input_current_bank
XC3 V_MEM VSS sky130_fd_pr__cap_mim_m3_1 W=22.63 L=22.63
XC4 V_inv2 VSS sky130_fd_pr__cap_mim_m3_1 W=24.75 L=24.75
.ends

* expanding   symbol:  ota/ota.sym # of pins=6
** sym_path: /foss/designs/ttsky-26c-voltage-amplifier-neuron/schem/ota/ota.sym
** sch_path: /foss/designs/ttsky-26c-voltage-amplifier-neuron/schem/ota/ota.sch
.subckt ota VCC OUT VSS BIAS + -
*.PININFO BIAS:I +:I -:I OUT:O VCC:B VSS:B
XM1 VSRC + VBOT VSS sky130_fd_pr__nfet_01v8 L=0.5 W=1 nf=1
XM2 OUT - VBOT VSS sky130_fd_pr__nfet_01v8 L=0.5 W=1 nf=1
XM3 VSRC VSRC VCC VCC sky130_fd_pr__pfet_01v8_lvt L=0.5 W=2 nf=1
XM4 OUT VSRC VCC VCC sky130_fd_pr__pfet_01v8_lvt L=0.5 W=2 nf=1
XM5 VBOT BIAS VSS VSS sky130_fd_pr__nfet_01v8 L=1 W=1 nf=1 m=2
.ends


* expanding   symbol:  inv/inv.sym # of pins=4
** sym_path: /foss/designs/ttsky-26c-voltage-amplifier-neuron/schem/inv/inv.sym
** sch_path: /foss/designs/ttsky-26c-voltage-amplifier-neuron/schem/inv/inv.sch
.subckt inv VDD IN OUT VSS
*.PININFO IN:I VDD:B VSS:B OUT:O
XM1 OUT IN VSS VSS sky130_fd_pr__nfet_01v8 L=0.5 W=1 nf=1
XM2 OUT IN VDD VDD sky130_fd_pr__pfet_01v8_lvt L=0.5 W=2 nf=1
.ends


* expanding   symbol:  bias/bmr.sym # of pins=7
** sym_path: /foss/designs/ttsky-26c-voltage-amplifier-neuron/schem/bias/bmr.sym
** sch_path: /foss/designs/ttsky-26c-voltage-amplifier-neuron/schem/bias/bmr.sch
.subckt bmr VCC VBP_REF10N VSS VBP_REF1N VBN_REF10N VBN_REF1N rst_n
*.PININFO VCC:B VSS:B rst_n:I VBP_REF10N:O VBP_REF1N:O VBN_REF10N:O VBN_REF1N:O
x1 VCC VBP_REF10N VSS VBN_REF10N rst_n bmr_10n
XM1 net1 VBP_REF10N VCC VCC sky130_fd_pr__pfet_01v8 L=4 W=1 nf=1
XM2 VBN_REF1N VBN_REF1N VSS VSS sky130_fd_pr__nfet_01v8 L=4 W=1 nf=1 m=10
XM3 net2 VBN_REF1N VSS VSS sky130_fd_pr__nfet_01v8 L=4 W=1 nf=1
XM4 VBP_REF1N VBP_REF1N VCC VCC sky130_fd_pr__pfet_01v8 L=4 W=1 nf=1
Vmeas net1 VBN_REF1N 0
.save i(vmeas)
Vmeas1 VBP_REF1N net2 0
.save i(vmeas1)
.ends


* expanding   symbol:  input_current_bank.sym # of pins=8
** sym_path: /foss/designs/ttsky-26c-voltage-amplifier-neuron/schem/input_current_bank.sym
** sch_path: /foss/designs/ttsky-26c-voltage-amplifier-neuron/schem/input_current_bank.sch
.subckt input_current_bank VCC V_STIM VBP_REF1N IN1 IN2 IN3 IN4 IN5
*.PININFO VCC:B V_STIM:B VBP_REF1N:I IN1:I IN2:I IN3:I IN4:I IN5:I
X0.5 net1 VBP_REF1N VCC VCC sky130_fd_pr__pfet_01v8 L=16 W=0.5 nf=1
XM13 V_STIM IN1 net1 VCC sky130_fd_pr__pfet_01v8_lvt L=4 W=2 nf=1
XM14 net2 VBP_REF1N VCC VCC sky130_fd_pr__pfet_01v8 L=8 W=0.5 nf=1
XM15 V_STIM IN2 net2 VCC sky130_fd_pr__pfet_01v8_lvt L=4 W=2 nf=1
XM16 net3 VBP_REF1N VCC VCC sky130_fd_pr__pfet_01v8 L=4 W=1 nf=1
XM17 V_STIM IN3 net3 VCC sky130_fd_pr__pfet_01v8_lvt L=4 W=2 nf=1
XM18 net4 VBP_REF1N VCC VCC sky130_fd_pr__pfet_01v8 L=4 W=1 nf=1
XM19 V_STIM IN4 net4 VCC sky130_fd_pr__pfet_01v8_lvt L=4 W=2 nf=1
XM20 net5 VBP_REF1N VCC VCC sky130_fd_pr__pfet_01v8 L=4 W=1 nf=1 m=2
XM21 V_STIM IN5 net5 VCC sky130_fd_pr__pfet_01v8_lvt L=4 W=2 nf=1
.ends


* expanding   symbol:  bias/bmr_10n.sym # of pins=5
** sym_path: /foss/designs/ttsky-26c-voltage-amplifier-neuron/schem/bias/bmr_10n.sym
** sch_path: /foss/designs/ttsky-26c-voltage-amplifier-neuron/schem/bias/bmr_10n.sch
.subckt bmr_10n VCC VBP VSS VBN rst_n
*.PININFO VCC:B VSS:B rst_n:I VBP:O VBN:O
XM1 VBP VBP VCC VCC sky130_fd_pr__pfet_01v8 L=4 W=1 nf=1
XM2 net3 VBP VCC VCC sky130_fd_pr__pfet_01v8 L=4 W=1 nf=1
XM3 net2 VBN net1 VSS sky130_fd_pr__nfet_01v8 L=4 W=8 nf=1
XM4 VBN VBN VSS VSS sky130_fd_pr__nfet_01v8 L=4 W=1 nf=1
XR1 net5 net1 net4 sky130_fd_pr__res_xhigh_po_0p35 L={LR} mult=1
VSRIGHT VBP net2 0
.save i(vsright)
VSLEFT net3 VBN 0
.save i(vsleft)
XM5 VBN rst_n VCC VCC sky130_fd_pr__pfet_01v8 L=4 W=1 nf=1
XR2 net6 net5 net4 sky130_fd_pr__res_xhigh_po_0p35 L={LR} mult=1
XR3 net7 net6 net4 sky130_fd_pr__res_xhigh_po_0p35 L={LR} mult=1
XR4 net8 net7 net4 sky130_fd_pr__res_xhigh_po_0p35 L={LR} mult=1
XR5 net9 net8 net4 sky130_fd_pr__res_xhigh_po_0p35 L={LR} mult=1
XR6 net10 net9 net4 sky130_fd_pr__res_xhigh_po_0p35 L={LR} mult=1
XR7 net11 net10 net4 sky130_fd_pr__res_xhigh_po_0p35 L={LR} mult=1
XR8 VSS net11 net4 sky130_fd_pr__res_xhigh_po_0p35 L={LR} mult=1
**** begin user architecture code


.param LR=1084/8


**** end user architecture code
.ends

